US05859007
N-Isopropyl-N-phenyl-2-(3-methyl-2,4-dioxo-5-phenyl-3-phenylcarbamoylpropyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide
A solution of 95 mg of [1-(Isopropyl-phenyl-carbamoylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-butyric acid, prepared as in Intermediate 34, 75.1 mg of BOP, 24.2 mg of HOBT, 21 mg of DMAP and 16.4 mg of aniline in DMF (0.5 ml) is stirred at RT overnight. The reaction mixture is diluted with 50 mL of ethyl acetate and washed with 1N aqueous sodium hydroxide solution (×2), water, 0.5N hydrochloric acid (×2), water and brine. The organic extract is dried over MgSO4 and concentrated in vacuo to afford the crude product. Purification by silica gel flash column chromatography (10% MeOH in methylene chloride) gave 45 mg of the title compound as a clear glass: 1H NMR (300 MHz, CDCl3) δ8.6 (s, 1H), 6.8-7.7 (m, 19H), 5.11 (sept, 1H, J=7.1), 4.59 (d, 1H, J=8.9), 3.71 (d, 1H, J=8.9,), 2.09 (m, 2H), 1.81 (m, 2H), 1.59 (s, 3H), 1.4 (m, 2H), 1.04 (dd, 6H, J=7.1); low resolution MS (FAB) m/e 603 (MH+).

reactant | [1-(Isopropyl-phenyl-carbamoylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-butyric acid | 95 mg | C(C)(C)C(N1C2=C(N(C(C(C1=O)(C)C(C(=O)O)CC)=O)C1=CC=CC=C1)C=CC=C2)(C(N)=O)C2=CC=CC=C2 | C31H33N3O5
reactant | BOP | 75.1 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | HOBT | 24.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | aniline | 16.4 mg | NC1=CC=CC=C1 | C6H7N
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 21 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-Isopropyl-N-phenyl-2-(3-methyl-2,4-dioxo-5-phenyl-3-phenylcarbamoylpropyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide | 45 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)(C)CCCC(NC1=CC=CC=C1)=O)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C37H38N4O4
